US08211923B2
{[(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonic acid
1.2 g diethyl {[(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate are dissolved in 30 ml dichloromethane. 1.2 ml of trimethylsilylbromide are added with stirring. Then the mixture is refluxed for 2 hours and after cooling to ambient temperature combined with 30 ml of methanol. The mixture is stirred for 1 hour, the solvents are eliminated in vacuo, another 30 ml of methanol are added and the mixture is stirred for a further 10 minutes. Then the solvent is eliminated in vacuo and the residue is dried in vacuo at 80° C. Then it is extracted from diethyl ether, the solid is suction filtered and dried in vacuo.

reactant | diethyl {[(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate | 1.2 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC)=O)CP(OCC)(OCC)=O | C21H26Cl2N3O6PS
reactant | trimethylsilylbromide | 1.2 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | methanol | 30 ml | CO | CH4O
reactant | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | {[(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonic acid | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC)=O)CP(O)(O)=O | C17H18Cl2N3O6PS
